US07781439B2
5-Chloro-6-(2,4-dichlorophenyl)-7-isopropylaminopyrazolo[1,5-a]pyrimidine-3-carboxylic acid
5 g of methyl 5-chloro-6-(2,4-dichlorophenyl)-7-isopropylaminopyrazolo[1,5-a]pyrimidine-3-carboxylate were dissolved in 75 ml of 1,4-dioxane, and 75 ml of 2 N aqueous potassium hydroxide solution were added. The mixture was stirred at room temperature for 15 h (monitored by TLC) and then introduced into 1 N hydrochloric acid. The precipitated solid was filtered off with suction.

reactant | methyl 5-chloro-6-(2,4-dichlorophenyl)-7-isopropylaminopyrazolo[1,5-a]pyrimidine-3-carboxylate | 5 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1)Cl)Cl)NC(C)C)N=CC2C(=O)OC | C17H15Cl3N4O2
reactant | potassium hydroxide | 2 N, 75 ml | [OH-].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | 1,4-dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-6-(2,4-dichlorophenyl)-7-isopropylaminopyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1)Cl)Cl)NC(C)C)N=CC2C(=O)O | C16H13Cl3N4O2
